US07371772B2
A mixture of 1-isobutyl-2-piperidone (8.8 g) and aqueous methanesulfonic acid solution (10.9 g/19 ml) was refluxed at 110° C. for 3 days. To the mixture which was previously cooled to room temperature, were added water (10 ml) and sodium carbonate (18.0 g) slowly. Then, after heating the mixture at 50° C. for 1 hour, DMSO (13 ml) was added. The resulting mixture was heated to 135° C., and then a solution of 5-bromo-2-fluorobenzaldehyde (11.5 g) in DMSO (15 ml) was added dropwise. After stirring at 135° C. for 6 hours, the mixture was cooled to 0° C., and the mixture was adjusted to pH 2.5 by using 6N hydrochloric acid. After ethyl acetate extraction, the organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) to obtain brown oil of 5-(4-bromo-2-formyl-N-isobutylanilino)pentanoic acid (15.3 g).

reactant | 1-isobutyl-2-piperidone | 8.8 g | C(C(C)C)N1C(CCCC1)=O | C9H17NO
reactant | methanesulfonic acid | 19 ml, 10.9 g | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 18.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-fluorobenzaldehyde | 11.5 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | DMSO | 13 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | 5-(4-bromo-2-formyl-N-isobutylanilino)pentanoic acid | 15.3 g | BrC1=CC(=C(N(CC(C)C)CCCCC(=O)O)C=C1)C=O | C16H22BrNO3
